* C:\Users\Asus\eSim-Workspace\Differential_Amplifier\Differential_Amplifier.cir

.lib "models/sky130.lib.spice" tt

* Sheet Name: 
xM4  Net-_M3-Pad3_ v1 current_mirror current_mirror sky130_fd_pr__nfet_01v8 W=1 L=0.25
xM5  vout v2 current_mirror current_mirror sky130_fd_pr__nfet_01v8 W=1 L=0.25

		
xM3  vdd Net-_M3-Pad2_ Net-_M3-Pad3_ vdd sky130_fd_pr__pfet_01v8 W=28 L=1	
xM6  vdd Net-_M3-Pad2_ vout vdd sky130_fd_pr__pfet_01v8	W=28 L=1
xM1  Net-_I1-Pad1_ Net-_I1-Pad1_ GND GND sky130_fd_pr__pfet_01v8 W=5 L=1		
xM2  current_mirror Net-_I1-Pad1_ GND GND sky130_fd_pr__pfet_01v8 W=5 L=1		
C1  GND vout 10p		
I1  Net-_I1-Pad1_ GND 300u		
	

*******DC supply********
VDD vdd 0 1.8




*******Transient analysis AC Source********
*V1  v1 0 SIN(1.8 2 1k 0 0 0.0)
*V2  v2 0 SIN(1.8 2 1k 0 0 180.0)

*******AC analysis AC Source******
V1  v1 0 dc 1.8 ac 1
V2  v2 0 dc 1.8 ac -1

******AC Command*****
.control 

ac dec 1000 1 1000meg
*Magnitude dB plot for v(vout) on log scale
plot vdb(vout) xlog

let outd = 57.29*vp(vout)
settype phase outd
plot outd xlimit 100 1000meg ylabel 'phase'
let pm = outd + 180
settype phase pm
plot pm xlimit 100 1000meg ylabel 'Phase Margin'

.endc


******transient analysis*****
*.tran 0.1us 4000us

*.control 

*run
*plot V(v1) V(v2) 
*plot V(vout)

*.endc

.end
